US08017792B2
Synthesis of 3-bromo-7-(4-methylbenzyl)-1-benzothiophene
An acetonitrile (30 mL) solution of 7-(4-methylbenzyl)-1-benzothiophene (1.24 g, 5.20 mmol) was added with N-bromosuccinimide (1.01 g, 5.72 mmol) and stirred at room temperature for two hours. The solvent was evaporated under reduced pressure and diluted with ethyl acetate. After washed with 20 wt % sodium thiosulfate aqueous solution and brine, the organic phase was dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=100:1-50:1) to obtain a colorless powdered title compound (0.92 g, 56%).

reactant | 7-(4-methylbenzyl)-1-benzothiophene | 5.20 mmol, 1.24 g | CC1=CC=C(CC2=CC=CC=3C=CSC32)C=C1 | C16H14S
reactant | N-bromosuccinimide | 5.72 mmol, 1.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-bromo-7-(4-methylbenzyl)-1-benzothiophene | 0.92 g, 56% | BrC1=CSC2=C1C=CC=C2CC2=CC=C(C=C2)C | C16H13BrS
